Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Amoxicillin / Codeine / Latex / Lactose / Shellfish Derived
 
Attending: ___.
 
Chief Complaint:
RUE fistula revision and aneurysm repair 
 
Major Surgical or Invasive Procedure:
RUE fistula revision and aneurysm repair 
 
History of Present Illness:
___. male anuric ESRD on HD per right upper arm AV fistula on
___ presented to ED on ___ with spontaneous bleed 
from fistula.  He was in the bathroom when fistula began 
bleeding and he was brought by
EMS.  He has been undergoing hemodialysis through the fistula
without difficulty, at that time most recently on ___ 
(___). The
fistula is aneurysmal and was last revised ___ by Dr. 
___ two large aneurysmal segments. At that time 
recommended that pt be admitted for fistula revision. Pt refused 
admission and was scheduled to follow up in clinic with Dr. 
___. He is admitted now elective fistula revision and 
aneurysm repair.  

Otherwise in USOH. Denies fever, chills, nausea, vomiting, 
diarrhea, pain, SOB, and dyspnea.  Denies numbness/tingling or 
paresthesias.  
 
Past Medical History:
ESRD on HD ___, anemia, CAD, hypertension, systolic CHF,
hypothyroidism, psoriasis, restless leg syndrome, h/o L3 burst
fracture, s/p spinal fusion L2-4 ___, h/o MSSA osteomyelitis,
h/o MSSA epidural abscess, h/o MSSA paraspinal abscess, h/o MSSA
bacteremia.

 
Social History:
___
Family History:
Father died of MI in ___ mother alive and well ___; 8 siblings, 
one of whom has HTN, one who has a cerebral aneurysm; he has no 
children.
 
Physical Exam:
Discharge physical
T 98.5 HR 74 BP 134/72 RR 16 O2sat 96RA
NAD, AAOx3
no murmurs
ctab
adb soft nt nd no rebound or guarding
no ___ edema
RUE incision closed with nylon sutures, c/d/i. +thrill. 2 
aneurysmal segments inferiorly with some skin breakdown over the 
aneursyms.
R +radial pulse, R hand warm and well perfused 
 
Brief Hospital Course:
Pt was admitted for elective RUE fistula revision and aneurysm 
repair. Procedure was uncomplicated. See operative dictation for 
full report. Pt was admitted to the hospital for overnight 
observation. Diet was advanced to regular, tolerated well. Pain 
well controlled on oral pain medications. Pt and staff felt 
staff to discharge pt home. Pt will get HD at his outpt center 
the afternoon of discharge. Will follow up in clinic with Dr. 
___.
 
Discharge Medications:
1. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO BID (2 
times a day).  
2. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for sleep.  
3. gabapentin 400 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
4. bupropion HCl 150 mg Tablet Extended Release 24 hr Sig: One 
(1) Tablet Extended Release 24 hr PO DAILY (Daily).  
5. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. ropinirole 0.25 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).  
7. sevelamer carbonate 800 mg Tablet Sig: Three (3) Tablet PO 
TID W/MEALS (3 TIMES A DAY WITH MEALS).  
8. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
9. levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RUE fistula aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-___ shower tommorow. Pat incision dry.
-Return or call if discharge from incision, opening of incision, 
hand becomes cold or numb, fever, chills, bleeding or anything 
else that concerns you.
-Resume all home medications.
 
Followup Instructions:
___